US09284323B2
Preparation of (S)-ethyl 2-(6-bromo-3-methyl-1-(triethylsilyloxy)naphthalen-2-yl)-2-tert-butoxyacetate:
To a solution of (S)-ethyl 2-(6-bromo-1-hydroxy-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate (238 mg, 0.6 mmol) in anhydrous DCM (20 mL) at 0° C. was added diisopropylethylamine (0.21 mL, 1.2 mmol), followed by chlorotriethylsilane (0.12 mL, 0.72 mmol) and the resulting mixture stirred for 1 hour. The reaction was quenched with saturated sodium bicarbonate solution. The mixture was extracted with DCM and organic layer was concentrated and purified by flash column chromatography (silica gel, ethyl acetate/hexanes) to give the desired compound. 1H NMR (400 MHz, CDCl3): δ 7.82 (m, 2H), 7.42 (m, 1H), 7.08 (s, 1H), 5.98 (s, 1H), 4.19 (m, 2H), 2.43 (s, 3H), 1.21 (s, 9H), 0.98 (t, 9H), 0.83 (m, 6H).

reactant | (S)-ethyl 2-(6-bromo-1-hydroxy-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate | 0.6 mmol, 238 mg | BrC=1C=C2C=C(C(=C(C2=CC1)O)[C@@H](C(=O)OCC)OC(C)(C)C)C | C19H23BrO4
reactant | diisopropylethylamine | 1.2 mmol, 0.21 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chlorotriethylsilane | 0.72 mmol, 0.12 mL | Cl[Si](CC)(CC)CC | C6H15ClSi
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (S)-ethyl 2-(6-bromo-3-methyl-1-(triethylsilyloxy)naphthalen-2-yl)-2-tert-butoxyacetate | BrC=1C=C2C=C(C(=C(C2=CC1)O[Si](CC)(CC)CC)[C@@H](C(=O)OCC)OC(C)(C)C)C | C25H37BrO4Si
